US04771046
4.95 g of trisodium phosphorothioate were added to an ice-cooled solution of 6.40 g of 2-(4-carbamoyloxypiperidin-1-yl)-2-iminoethylchloride hydrochloride in 32 ml of water, and the mixture was stirred at room temperature for 2.5 hours. 28 ml of 1N hydrochloric acid were then added, and the mixture was heated at 60° C. for 30 minutes. The reaction mixture was worked up in the same manner as in Example 1(2), giving 6.20 g of 2-(4-carbamoyloxypiperidin-1-yl)-2-iminoethylmercaptan hydrochloride.

reactant | trisodium phosphorothioate | 4.95 g | P([O-])([O-])([O-])=S.[Na+].[Na+].[Na+]
reactant | 2-(4-carbamoyloxypiperidin-1-yl)-2-iminoethylchloride hydrochloride | 6.40 g | Cl.C(N)(=O)OC1CCN(CC1)C(CCl)=N
reactant | hydrochloric acid | 1N, 28 ml | Cl | ClH
solvent | water | 32 ml | O | H2O
product | 2-(4-carbamoyloxypiperidin-1-yl)-2-iminoethylmercaptan hydrochloride | 6.20 g | Cl.C(N)(=O)OC1CCN(CC1)C(CS)=N | InChI=1S/C8H15N3O2S.ClH/c9-7(5-14)11-3-1-6(2-4-11)13-8(10)12;/h6,9,14H,1-5H2,(H2,10,12);1H
